Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Latex
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, nausea/vomiting

 
Major Surgical or Invasive Procedure:
___:  Cystoscopy, left retrograde pyelogram, left ureteral 
stent placement. Surgeon: ___, MD 

 
History of Present Illness:
This is a ___ F with ESRD on PD, DMII, HTN, HL, orthostatic 
hypotension, who presents with several days of abdominal pain, 
nausea, and vomiting. She reports that her abdomen began to feel 
tender about one week ago, but that 4 days ago the pain 
significant increased, especially with PD administration. 
Yesterday, she had severe pain with PD radiating to her back, 
and she felt that her abdomen was abnormally distended and 
'lumpy'. She has daily vomiting at baseline presumably due to 
autonomic dysfunction, but had increased nausea with vomiting 
and heaving up to 10x three days ago and ___ two days ago. 
She has also been constipated, her last BM was 5 days ago 
despite taking her daily dose of Miralax; her last BM was solid 
and almost white. She has also noted night sweats, shaking 
chills, subjective fever, anorexia, and fatigue. She denies 
chest pain, shortness of breath, headache. 

Of note, the patient is currently on 40mg Prednisone QD for 
suspected temporal arteritis; she presented in late ___ with 
temporal headache and ESR 112; subsequent temporal biopsy was 
negative. She has also recently been suffering from orthostatic 
hypotension ___ autonomic dysfunction, however she has been off 
midodrine as her BP has been recently stable while on 
prednisone. 

In the ED, her initial VS were T 97.2 HR 108 BP 129/74 RR 16 O2 
95% RA. Labs were notable for WBC 38.1, normal LFTs/lipase. KUB 
negative for obstruction. CT abd/pelvis showed an obstructing 
3mm L mid ureteric stone with mild hydronephrosis and tiny 
non-obstructing right renal stones. It showed CBD dilation to 
11mm, without masses/stones. No appendicitis or diverticulitis 
noted. Blood cultures were drawn and patient was given 2g IV 
ceftriaxone. The patient was evaluated by nephrology/dialysis 
team and started on IP Vancomycin and IP cefepime. No peritoneal 
fluid was drawn prior to antibiotics. However, the patient had a 
bag of peritoneal dialysate from from earlier on ___ which was 
sent for culture/gram stain. Finally, the patient reports some 
BRB on toilet paper after straining for attempted BM while in 
ED, however cannot find RN documentation of this. 

On the floor, the patient's nausea and abdominal pain were 
significantly improved and she was relatively comfortable. She 
denied chills, fever.  
 
Past Medical History:
MEDICAL HISTORY: 
- ESRD on PD (initiated ___  
- Type 2 DM c/b peripheral neuropathy, autonomic dysfunction 
(orthostatic hypotension), ESRD  
- HTN  
- HL  
- Depression  
- Anxiety  
- Insomnia
- Chronic pancreatitis  
- s/p lithotripsy and stent placement for R ureteral stone ___ 
(Dr. ___
- h/o Diverticulitis
- h/o Lower GI bleed
- h/o Gout
- h/o Urinary tract infections   
  
SURGICAL HISTORY:
--s/p hysterectomy  
--s/p gastric bypass 2 or ___ years ago  
--s/p lumpectomy  
--s/p vein stripping 
 
Social History:
___
Family History:
Her mother died at the age of ___- had h/o MI and died of sepsis. 
 Her father died at the age of ___ from stroke.  There is no 
significant family history of cancers. Her daughter has 
pre-diabetes.  

 
Physical Exam:
Physical exam on admission: 
VITALS: T 98.2 BP 125/63  HR 78  RR 18  SpO2 97%RA
GENERAL: Well-nourished female, NAD, sitting in bed comfortably  

HEENT: PERRL, dry MM  
NECK: no LAD 
LUNGS: CTAB, no wheezes/crackles/rhonchi  
HEART: RRR, nl S1 S2, no murmur/rubs/gallops appreciated
ABDOMEN: +BS, soft. Diffuse tenderness to palpation, most 
pronounced in LLQ, without rebound or guarding. PD catheter in 
place without surrounding erythema, edema or drainage.   
BACK: No paraspinal tenderness. Bilateral CVA tenderness  
EXTREMITIES: No c/c/e  
NEUROLOGIC: A+OX3  

Physical exam on discharge: 
Examined by the cross cover team
 
Pertinent Results:
Labs on admission: 
___ 04:45PM BLOOD WBC-38.1*# RBC-4.21 Hgb-12.5 Hct-38.5 
MCV-92 MCH-    29.7 MCHC-32.4 RDW-15.3 Plt ___
___ 04:45PM BLOOD Neuts-96.0* Lymphs-1.8* Monos-2.1 Eos-0 
Baso-0
___ 04:45PM BLOOD Glucose-169* UreaN-72* Creat-9.0* Na-137 
K-4.4 Cl-    93* HCO3-26 AnGap-22*
___ 04:45PM BLOOD ALT-24 AST-25 AlkPhos-72 TotBili-0.2
___ 04:45PM BLOOD Lipase-20
___ 04:45PM BLOOD Albumin-3.1*
___ 05:50AM BLOOD Calcium-7.6* Phos-11.7*# Mg-2.2
___ 05:23PM BLOOD Lactate-1.9

Pertinent results: 
___ 05:50AM BLOOD ESR-72*
___ 05:50AM BLOOD CRP-168.9*
___ 06:55AM BLOOD Vanco-9.5*
___ 05:35AM BLOOD Vanco-12.9
___ 05:50AM BLOOD PTH-223*

Labs on discharge: 
___ 05:25AM BLOOD WBC-11.6* RBC-3.38* Hgb-9.9* Hct-31.1* 
MCV-92 MCH-29.2 MCHC-31.8 RDW-15.0 Plt ___
___ 05:25AM BLOOD Glucose-92 UreaN-52* Creat-7.8* Na-139 
K-3.1* Cl-96 HCO3-29 AnGap-17
___ 05:25AM BLOOD Calcium-7.4* Phos-6.6* Mg-2.2

Microbiology: 
___ 4:45 pm BLOOD CULTURE: Routine (Final ___: NO 
GROWTH. 
___ 5:00 pm BLOOD CULTURE: Blood Culture, Routine (Final 
___: 
      KLEBSIELLA OXYTOCA.    FINAL SENSITIVITIES. 
         Piperacillin/Tazobactam sensitivity testing performed 
by ___
         ___. Cefazolin interpretative criteria are based on a 
dosage 
          regimen of 2g every 8h. SENSITIVITIES: MIC expressed 
in MCG/ML
   _________________________________________________________
                             KLEBSIELLA OXYTOCA
                             |   
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----       S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM NEGATIVE ROD(S).

___ 12:55 am DIALYSIS FLUID
      ACID FAST CULTURE AND SMEAR ADDED @ 0554 ON ___. 
   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer 
      to hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 

   ACID FAST CULTURE (Pending): 

___ 7:45 pm BLOOD CULTURE      1 OF 2.  Routine (Pending): 
___ 9:25 pm BLOOD CULTURE      RECEIVED  ON ___ # 2. 
         Blood Culture, Routine (Pending): 

EKG ___
Sinus rhythm. Within normal limits. Compared to the previous 
tracing  
of ___ no significant change.  
     Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
92 114 70 366/422 49 35 73 
 
Imaging:
___
- KUB: The stomach contains an air-fluid level but does not 
appear distended.  Stool and air are seen throughout most 
portions of the colon, including the rectum.  A few air-fluid 
levels in the pelvis are probably colonic.  Although a paucity 
of small bowel gas limits assessment somewhat, no dilated loops 
of large or small bowel are seen.  There is no free air.  
Surgical clips are present along the left upper quadrant.  There 
is a catheter coiled in the pelvis, possibly for peritoneal 
dialysis.  Prominent calcified vessels are noted about the 
pancreatic head as well as the splenic artery.  Their presence 
may be associated with collateral pathways between celiac and 
superior mesenteric arterial distributions.  Mild spinal 
degenerative changes are noted with small osteophytes along the 
mid and lower portions of the lumbar spine, as well as suspected 
facet joint degenerative changes at the lumbosacral junction. 
IMPRESSION:  Few distal colonic air-fluid levels, which are 
non-specific, without findings strongly suggestive of 
obstruction.  No evidence of free air. 
- CT abd/pelvis w/o contrast:
CT CHEST:  Linear scarring is seen in the lung bases.  Trace 
peribronchovascular ground-glass opacity is seen in the right 
lower lung (2, 1), nonspecific and similar as on prior exams.  
There is also dependent atelectasis in the right base.  There is 
no pleural effusion.  The heart is normal in size.  There is 
relatively focal anterior pericardial fluid, appearance similar 
as compared to ___.  Dense multivessel coronary 
arterial calcifications are present. 
CT ABDOMEN:  Small perihepatic ascites is re-demonstrated, in 
keeping with history of peritoneal dialysis.  The gallbladder 
appears moderately distended but without definite stranding 
around it or pericholecystic fluid.  Note is made of dilated CBD 
to at least 11 mm without obvious obstructing stone or mass, 
although assessment is highly limited due to non-contrast 
technique.  This is increased as compared to prior MRI dated 
___.  A subcentimeter lesion seen in the liver on prior 
MRI is not well visualized.  The pancreas is diffusely atrophic, 
in keeping with chronic pancreatitis.  Abnormal configuration of 
pancreatic duct with cystic changes appears similar but is 
better demonstrated on prior MRCP dated ___. The left 
adrenal gland demonstrates stable thickening without nodularity. 
 The right adrenal gland appears normal.  There is a 3 mm stone 
in the mid left ureter and the left ureter is mildly dilated, 
although there is little caliber change at the site of the stone 
in the mid ureter.  Note is made of a single focus of air in the 
left renal pelvis (2, 27), which could represent air from gas 
forming organism in pyelitis, or alternatively air refluxed from 
the bladder could be considered.  There is no obstructing 
nephropathy on the right.  Multiple tiny non-obstructing stones 
are seen in the right kidney.  There is no right-sided 
hydronephrosis or hydroureter.  Small and large bowel loops are 
normal in caliber.  The appendix appears normal.  No free air or 
free fluid.  Extensive atherosclerotic disease is seen in the 
infrarenal aorta extending into the common iliac arteries 
without aneurysm. 
CT PELVIS:  At least two stones are seen in the bladder.The 
distal ureters, rectum, and prostate appear within normal 
limits.  No pelvic lymphadenopathy.  A peritoneal dialysis 
catheter is coiled in the pelvis between bowel loops.  Trace 
fluid is seen in the right hemipelvis. 
BONE WINDOW:  There is multilevel moderate thoracolumbar 
spondylosis.  There have been prior bilateral anterolateral rib 
fractures. 
IMPRESSION: 
1.  3 mm stone in the mid left ureter with upstream mild 
hydronephroureter although the degree of obstruction is 
uncertain since the ureter does not change caliber at the site 
of the stone.  Single focus of air in the left renal pelvis 
raises concern for pyelitis due gas- forming organism although 
refluxed air from the bladder could be considered since the 
bladder contains air, but this possibility would also require 
vesicoureteral reflux.  Close monitoring is advised. 
2.  Non-obstructing tiny right renal stones. 
3.  Bladder stones. 
4.  Small amount of ascites, which is anticipated in the setting 
of peritoneal dialsysis. 
5.  Diffuse atherosclerotic disease. 
6.  CBD dilatation to 12 mm without obvious obstructing mass or 
stone, 
increased since preceding MRCP dated ___.  Correlate with 
laboratory data and consider MRCP for further assessment if 
clinically indicated. 
- CXR PA/Lateral: The heart is normal in size.  The mediastinal 
and hilar contours appear unchanged.  The lungs appear clear.  
There are no pleural effusions or pneumothorax.  Mild 
degenerative changes are similar along the thoracic spine. 
IMPRESSION:  No evidence of acute disease.

___
- RUQ blood culture: Mild perihepatic ascites evident in keeping 
with history of peritoneal dialysis.  The liver is homogeneous 
in echotexture without discrete masses or lesions.  There is no 
intrahepatic biliary ductal dilatation.  The common bile duct is 
dilated to 1.2 cm in maximal dimension, but tapers smoothly to a 
level of 0.8 cm in the distal aspect.  However, the most distal 
aspect at the level of the pancreas, as well as the pancreas in 
its entirety are obscured due to overlying bowel gas.  The 
gallbladder is distended, but without gallstones.  There is no 
gallbladder wall edema or hyperemia evident.  The visualized 
aspects of the right kidney are unremarkable.  Doppler 
assessment of main portal vein shows patency and hepatopetal 
flow.   
IMPRESSION:  
1. Minimal perihepatic ascites in keeping with peritoneal 
dialysis. 
2. Dilated common bile duct without intrahepatic biliary ductal 
dilatation.  Unable to evaluate common bile duct at level of 
pancreatic head. No stones in visualized aspect of CBD. No 
cholelithiasis 

___
- renal U/S: The right kidney measures 8.8 cm and is echogenic 
consistent with provided history of end-stage renal disease.  
The left kidney measures 10.0 cm. Trace perinephric fluid noted 
on the left. No evidence of hydronephrosis bilaterally.  
Multiple non-obstructing stones are identified within the left 
kidney, the largest of which is in the lower pole measuring 3 
mm.  The bladder is collapsed and not well evaluated. 
IMPRESSION: 
Smaller echogenic kidney on the right consistent with provided 
history of 
renal disease.  No hydronephrosis evident bilaterally.  Multiple 
non-obstructing stones on the left. 

Pathology:
___
- peritoneal fluid: negative for malignant cells
 
Brief Hospital Course:
This is a ___ F with ESRD on PD presenting with abdominal pain, 
nausea and vomiting, leukocytosis, and constipation, with 
obstructing L ureteral stone on CT, CVA tenderness, and 
gram-negative bacteremia, most likely consistent with 
pyelonephritis c/b ileus. 

Active issues: 
#PYELONEPHRITIS/NEPHROLITHIASIS:  The patient presented with 
fevers, chills, nausea/vomiting, malaise, leukocytosis with WBC 
to 38, along with CVA tenderness on exam and obstructing L 
ureteral stone on CT, all concerning for pyelonephritis. The 
patient was afebrile on admission but with CVA tenderness and as 
well as moderate point tenderness in the LUQ. The patient was 
originally started on IP cefepime and IP vancomycin for concern 
of PD related peritonitis, however, with ongoing CVA tenderness 
and after discussions with nephrology and urology, the cefepime 
was transitioned to IV, and on ___ the patient underwent 
cystoscopy with left retrograde pyelogram and left ureteral 
stent placement performed by Dr. ___, without 
complication. Following the procedure and with initiation of IV 
cefepime, the patient's CVA tenderness and LUQ point tenderness 
resolved. The patient remained afebrile and her WBC trended down 
over the course of her admission.  She was transitioned to 
ciprofloxacin and tolerated it well prior to discharge.  The 
plan was to leave the stent in for 1 week on Flomax prior to 
removal of stent.  Patient will need to discuss with urology 
about need of Flomax afterward given her high risk of stone 
formation given h/o gastric bypass.

# Klebsiella SEPTICEMIA: One of two blood cultures from ___ 
grew out gram-negative rods, which speciated as Klebsiella 
oxytoca, sensitive to cefepime and ciprofloxacin, thought likely 
secondary to pyelonephritis. The patient was afebrile on 
admission with stable vital signs. She had already been started 
on IV cefepime prior to the report of growth on blood culture 
and was continued on IV cefepime until 24 hours before 
discharge, at which time she was transitioned to PO 
ciprofloxacin, which she tolerated well, and will continue at 
home until ___. She was afebrile with stable vital signs at 
discharge. 

#R/O PERITONITIS: The patient presented with nausea, vomiting, 
and abdominal pain with peritoneal dialysis, as well as an 
elevated periotoneal dialysate WBC, all concerning for 
peritonitis. Peritoneal fluid culture and gram stain showed no 
organisms and AFB smear (done out of concern for TB peritonitis 
due to elevated monocytes in peritoneal fluid) was negative. The 
patient was started on IP vancomycin and IP cefepime for 
peritonitis. Her abdominal pain rapidly improved and she was 
able to continue peritoneal dialysis without any ongoing 
discomfort. In discussion with nephrology, concern for true 
infectious peritonitis was thought to be low and the patient's 
IP cefepime was transition to IV cefepime on ___, and her IP 
vancomycin was discontinued on ___. The patient remained 
afebrile and continued on peritoneal dialysis without any pain 
or discomfort, and her peritoneal dialysate fluid culture 
remained negative. She was discharged home with instructions to 
continue with good sterile technique for home PD. 

#CONSTIPATION: On presentation the patient had not had a bowel 
movement for ___ days; she takes daily miralax at home and is 
normally regular. She had passed a small amount of gas and a KUB 
on admission showed few distal colonic air-fluid levels without 
findings strongly suggestive of obstruction; though consistent 
with ileus. As constipation can interfere with the efficacy of 
peritoneal dialysis, the patient was started on an aggressive 
bowel regimen of 2L Golytely with good response. She was 
transitioned to standing Miralax and Senna without further 
constipation.   

# R/O TEMPORAL ARTERITIS: The patient had been diagnosed with 
possible temporal arteritis in late ___ after presenting 
with bitemporal headache but without jaw pain or claudication. 
She had been started on 40mg prednisone daily. In discussion 
with the outpatient rheumatologist, suspicion for true GCA was 
thought to be low after negative temporal artery biopsy and the 
risks of immunocompromise due to steroid therapy concerning in 
light of her current presentation, and the patient was started 
on a fast prednisone taper which she will finish on ___ (had 10 
mg daily reduction from 40 mg while in house, then 5 mg x 7 days 
prior to discontinuation) 

#TYPE 2 DM: The patient reported that her blood sugars had 
recently been difficult to control, most likely due to recently 
initiated prednisone therapy. She was started on her home 
insulin regimen, however, she had persistent asymptomatic  
hypoglycemia in the mornings with AM glucose levels in the 
mid-40s to low ___. She was evaluated by endocrinology from 
___ and ___ basal insulin levels were altered, while allowing 
the patient to determine her own sliding scale doses. Her blood 
sugars were mainly stable, ranging 80-150, however peaking to 
over 300 before bedtime. She was discharged on an altered 
regimen of 18U Glargine at bedtime with the plan to follow up 
with ___ closely (per patient's request to transition back to 
___
 
Chronic issues:
#AUTONOMIC DYSFUNCTION/ORTHOSTASIS: The patient has baseline 
autonomic dysfunction as a complication of her diabetes, 
however, this had not been an issue immediately prior to her 
admission because her BPs were stable while on prednisone. Her 
blood pressures were stable during admission, ranging 110s-150s, 
despite prednisone taper and she denied light-headedness or 
dizziness on standing or ambulating. 

#ESRD on PD: The patient initiated peritoneal dialysis 14 months 
ago and is oliguric/anuric, with max ___ urine/day. She was 
continued on peritoneal dialysis per the recommendations of the 
nephrology/dialysis team without complication. Her electrolytes 
were monitored and repleted as necessary. She was continued on 
her home supplements, with the exception of her EPO, which she 
normally receives every ___ and would receive after 
discharge. All medications were renally dosed.  

#DEPRESSION/ANXIETY: The patient was continued on her home 
anti-depressant and home anxiety medication. Her mood remained 
stable throughout admission. 

#CHRONIC PANCREATITIS/CBD DILATION: On non-contrast abdominal CT 
on admission, note was made of moderate gallbladder distention 
with CBD dilation to at least 11mm but without obvious 
obstructing stone or mass (though with evaluation limited by 
non-contrast technique). The patient did not complain of RUQ 
pain. A follow-up RUQ ultrasound again revealed a dilated CBD 
without intrahepatic biliary duct dilatation but with limited 
ability to evalute the CBD at the pancreatic head. The patient 
had normal LFTs and was asymptomatic, so no further workup was 
pursued during admission. However, outpatient MRCP for CBD 
dilatation should be considered.

Transitional issues: 
#FOLLOW-UP: 
-Primary care: the patient will follow up with Dr. ___ on 
___ at 11:10am.  Consider MRCP/ERCP for evaluation of CBD 
dilatation.
-Urology: the patient will follow up with Dr. ___ on ___ at 
10:00am
-Endocrinology: the patient will follow up with Dr. ___ 
at ___ on ___ at 10:00am 
-Rheumatology: the patient will follow up with Dr. ___ on 
___ at 10:00am

#RESULTS PENDING: 
-___ Blood culture x2: pending
-___ Peritoneal dialysate Acid Fast Bacteria culture: pending
 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from Patient.
1. Glargine 26 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
2. PredniSONE 40 mg PO DAILY 
3. Rosuvastatin Calcium 40 mg PO DAILY 
4. Lorazepam 2 mg PO HS:PRN anxiety 
5. Ondansetron 4 mg PO Q8H:PRN nausea 
6. Sertraline 100 mg PO DAILY 
7. ZYRtec *NF* 10 mg Oral daily 
8. Polyethylene Glycol 17 g PO DAILY 
9. Calcium Acetate ___ mg PO TID W/MEALS 
10. Nephrocaps 1 CAP PO DAILY 

 
Discharge Medications:
1. Calcium Acetate ___ mg PO TID W/MEALS 
2. Lorazepam 2 mg PO HS:PRN anxiety 
3. Nephrocaps 1 CAP PO DAILY 
4. Ondansetron 4 mg PO Q8H:PRN nausea 
5. Polyethylene Glycol 17 g PO DAILY 
6. PredniSONE 5 mg PO DAILY Duration: 7 Doses 
start on ___ 
RX *prednisone 5 mg 1 tablet(s) by mouth daily Disp #*7 Tablet 
Refills:*0
7. Rosuvastatin Calcium 40 mg PO DAILY 
8. Sertraline 100 mg PO DAILY 
9. Tamsulosin 0.4 mg PO HS 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0
10. ZYRtec *NF* 10 mg Oral daily 
11. Ciprofloxacin HCl 250 mg PO Q24H 
Continue to take this medication until your final dose on 
___.  
RX *ciprofloxacin 250 mg 1 tablet(s) by mouth every 24 hours 
Disp #*12 Tablet Refills:*0
12. Glargine 18 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnoses: 
- pyelonephritis
- klebsiella bacteremia/sepsis

Secondary diagnoses: 
-Type II Diabetes Mellitus
-End Stage Renal Disease on Peritoneal Dialysis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to ___ on 
___ for abdominal pain, fever, nausea, and vomiting. 

It was initially thought that you may have either an infection 
in your abdomen or an infection in your left kidney. You were 
started on antibiotics in your peritoneal dialysis fluid as well 
as intravenous antibiotics. You did not have a fever in the 
hospital and your abdominal pain rapidly improved. We found 
stones in your left kidney based on the imaging studies, and 
thought that your symptoms had been due to a kidney infection, 
so you underwent a procedure to put a stent into the left ureter 
(tube between the kidney and the bladder). Additionally, you 
were found to have bacteria growing from your blood culture and 
were continued on intravenous antibiotics to treat this. You 
were switched to oral antibiotic medicine, Ciprofloxacin, which 
you will finish taking after discharge from the hospital. 

You should continue using good sterile technique with peritoneal 
dialysis at home as you have been.  It is important to make sure 
that you have bowel movement every day, because constipation can 
interfere with your peritoneal dialysis.

We contacted your rheumatologist for the prednisone taper, 
because your pathology report showed that you do not have an 
inflammation of the artery at your temple.  Therefore, you are 
going to be gradually tapered off from the prednisone.  This has 
affected your blood sugar, and the diabetes doctors from ___ 
helped to manage your blood sugar.  You can return to see them 
after this hospitalization.

Please note the change in your medication: 
-ADDITION of ciprofloxacin 250mg every 24 hours, which you will 
take until the evening of ___
-ADDITION of Flomax (tamsulosin) 0.4 mg every night until you 
see your urologist.
-DECREASE Lantus (Glargine) to 18 units QHS
-CHANGE your sliding scale (see medication sheet for details)
 
Followup Instructions:
___